US04397937
Preparation of 4,8-Bis (6-diazo-5,6-dihydro-5-oxo-1-naphthalene sulfonyl oxyeth-1'-yl) tricyclo[5.2.1.02,6 ] decane (Compound II)
To a solution of 1.86 g 4,8-Bis(hydroxyeth-1'-yl)tricyclo [5.2.1.02,6 ] decane, 0.93 g of 4-di-methylamino-pyridine, 4.7 ml of triethylamine and 30 ml of CH2Cl2 at 0° C. was added a solution of 7.8 g of 6-diazo-5,6-dihydro-5-oxo-1-naphthalene sulfonyl chloride and 80 ml of methylene chloride over 0.5 hr. The mixture was stirred 1/2 hour at 9° C. and 6 hours at 25° C. and then diluted with 100 ml of methylene chloride. The mixture was then filtered and the methylene chloride phase washed with 100 ml of 10% sodium bicarbonate solution, 100 ml of water, 100 ml of 2 N sulfuric acid solution 50 ml of 5% sodium bicarbonate solution and 50 ml of water. The solution was then dried over sodium sulfate and the solvent removed at reduced pressure to give 3.5 g of product.

reactant | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | 6-diazo-5,6-dihydro-5-oxo-1-naphthalene sulfonyl chloride | 7.8 g | [N+](=[N-])=C1C(C=2C=CC=C(C2C=C1)S(=O)(=O)Cl)=O | C10H5ClN2O3S
catalyst | 4-di-methylamino-pyridine | 0.93 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | tricyclo[5.2.1.02,6 ] decane | 3.5 g | C12C3CCCC3C(CC1)C2 | C10H16
